### PR TITLE
feat(EReal): simplify nat + ⊤

### PR DESCRIPTION
**Pull request by ldct**
Alternative version of https://github.com/leanprover-community/mathlib4/pull/38975

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/EReal/Operations.lean [hunk 1]
```diff
@@ -77,6 +77,13 @@ theorem top_add_of_ne_bot {x : EReal} (h : x ≠ ⊥) : ⊤ + x = ⊤ := by
   · exact top_add_coe _
   · exact top_add_top
 
+@[simp]
+lemma one_ne_bot : (1 : EReal) ≠ ⊥ := ne_of_beq_false rfl
```
Comment (eric-wieser) [inline Mathlib/Data/EReal/Operations.lean]: Does 
```suggestion
lemma one_ne_bot : (1 : EReal) ≠ ⊥ := nofun
```
also work here? Or perhaps better yet, `WithTop.coe_ne_top`?

**Comment by eric-wieser** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/24990e119ed0d103a75d2a6e0a77ab40341e69f5?reference=d214764ead440d301f1be920519b339e513286db) for 24990e119ed0d103a75d2a6e0a77ab40341e69f5 against d214764ead440d301f1be920519b339e513286db are in. No significant results found. @eric-wieser

- 🟥 `build//instructions`: **+8.0G** (**+0.00%**)

**Small changes (1🟥)**

- 🟥 `build/module/Mathlib.Tactic.Linter.EmptyLine//instructions`: **+94.7M** (**+2.69%**)

File: Mathlib/Data/EReal/Operations.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Data/EReal/Operations.lean]: `WithBot.coe_ne_bot`?

Comment (ldct) [reply Mathlib/Data/EReal/Operations.lean]: both `WithTop.coe_ne_top` and `WithBot.coe_ne_bot` work, which is quite surprising!

`nofun` also works

File: MathlibTest/EReal.lean
Comment (plp127) [inline MathlibTest/EReal.lean:1]: Can you add test for adding to `⊥` as well?

Comment (Vierkantor) [reply MathlibTest/EReal.lean:1]: I agree with the suggestion (although `simp` computing with `⊥` already works).

File: Mathlib/Data/EReal/Operations.lean [hunk 2]
```diff
@@ -77,6 +77,12 @@ theorem top_add_of_ne_bot {x : EReal} (h : x ≠ ⊥) : ⊤ + x = ⊤ := by
   · exact top_add_coe _
   · exact top_add_top
 
+@[simp]
+lemma one_ne_bot : (1 : EReal) ≠ ⊥ := WithBot.coe_ne_bot
+
+@[simp]
+lemma ofNat_ne_bot {n : ℕ} [n.AtLeastTwo] : (ofNat(n) : EReal) ≠ ⊥ := WithBot.coe_ne_bot
```
Comment (Vierkantor) [inline Mathlib/Data/EReal/Operations.lean:84]: If you also add `ne_top` lemmas, then `simp` can deal with subtraction too.
```suggestion
@[simp]
lemma one_ne_bot : (1 : EReal) ≠ ⊥ := WithBot.coe_ne_bot

@[simp]
lemma one_ne_top : (1 : EReal) ≠ ⊤ := WithBot.coe_injective.ne WithTop.coe_ne_top

@[simp]
lemma ofNat_ne_bot {n : ℕ} [n.AtLeastTwo] : (ofNat(n) : EReal) ≠ ⊥ := WithBot.coe_ne_bot

@[simp]
lemma ofNat_ne_top {n : ℕ} [n.AtLeastTwo] : (ofNat(n) : EReal) ≠ ⊤ :=
  WithBot.coe_injective.ne WithTop.coe_ne_top
```

File: MathlibTest/EReal.lean [hunk 3]
```diff
@@ -0,0 +1,20 @@
...
+
+example : (3 : EReal) + ⊤ = ⊤ := by simp
+
+example : ⊤ + (0 : EReal) = ⊤ := by simp
+
+example : ⊤ + (1 : EReal) = ⊤ := by simp
+
+example : ⊤ + (2 : EReal) = ⊤ := by simp
+
+example : ⊤ + (3 : EReal) = ⊤ := by simp
```
Comment (Vierkantor) [inline MathlibTest/EReal.lean:20]: After the suggestion above we can add:
```suggestion
example : ⊤ + (3 : EReal) = ⊤ := by simp

example : ⊤ - (4 : EReal) = ⊤ := by simp
```

**Review by Vierkantor — COMMENTED** [review]
This seems like a better approach than the other PR, and should only need a bit of cleanup to make it work.
